US07977325B2
Production of 6-tert-Butyl-2-oxo-4-p-tolyl-1,2-dihydro-pyridine-3-carbonitrile
A solution of 5.13 g of ammonium acetate, 886 μl of cyanoacetic acid ethyl ester, 1.03 ml of 3,3-dimethyl-2-butanone and 1 g of 4-methylbenzaldehyde in 40 ml of ethanol is stirred for 6 hours at 80° C. Then, it is stirred for 5 more hours at 20° C. The precipitated product is filtered off. The filtrate is rewashed with ethanol and hexane. 630 mg of product is obtained.

reactant | ammonium acetate | 5.13 g | C(C)(=O)[O-].[NH4+]
reactant | cyanoacetic acid ethyl ester | 886 μl | C(C)OC(CC#N)=O | C5H7NO2
reactant | 3,3-dimethyl-2-butanone | 1.03 ml | CC(C(C)=O)(C)C | C6H12O
reactant | 4-methylbenzaldehyde | 1 g | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-tert-Butyl-2-oxo-4-p-tolyl-1,2-dihydro-pyridine-3-carbonitrile | 630 mg | C(C)(C)(C)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)C | C17H18N2O
